US06472419B1
2-Chloro-4-methoxybenzyl bromide
186 g of 2-chloro-4-methoxytoluene are dissolved in 1000 ml of carbon tetrachloride and, together with 212 g of N-bromosuccinimide, heated at reflux for 2 h while 2.4 g of AIBN are added. The solid is filtered off and washed with a small amount of carbon tetrachloride, the filtrate is concentrated, and the residue which remains is fractionated. 252 g of orange oil are obtained (Purity 82%).

reactant | 2-chloro-4-methoxytoluene | 186 g | ClC1=C(C=CC(=C1)OC)C | C8H9ClO
reactant | N-bromosuccinimide | 212 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 1000 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 2.4 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 2-Chloro-4-methoxybenzyl bromide | 252 g | ClC1=C(CBr)C=CC(=C1)OC | C8H8BrClO
